* C:\sandbox\kupicelib\examples\testfiles\DC op point - STEP.qsch
R1 in b4 {R}
R2 b4 0 {2*R}
Vin in 0 {Vin}
R3 b4 b3 {R}
R4 b3 0 {2*R}
R5 b3 b2 {R}
R6 b2 0 {2*R}
R7 b2 b1 {R}
R8 b1 0 {2*R}
R9 b1 b0 {R}
R10 b0 0 {R}
.param R=1K
.step param Vin 1 10 1
.op
.end
